US05780642
In a similar manner to Example 71, a solution of butanesulphonyl chloride (0.45 g) in dichloromethane (5 ml) was added in portions over 5 minutes to a solution of 4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenol (0.75 g) and triethylamine (0.29 g) in dichloromethane (5 ml) at 0° C. with stirring, to give 4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl 1-butanesulphonate as an oil.

reactant | butanesulphonyl chloride | 0.45 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | 4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenol | 0.75 g | N1(C=NC=C1)CCCNC(C)(C)C1=CC=C(C=C1)O | C15H21N3O
reactant | triethylamine | 0.29 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl 1-butanesulphonate | C(CCC)S(=O)(=O)OC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | C19H29N3O3S
